US06914062B2
1) Ethyl (3-fluoro-2-iodopyridin-4-yl)oxoacetate
n-Butyllithium (1.59M in hexane) (1.75 ml, 2.78 mmol) was added to a solution of diisopropylamine (390 μl, 2.78 mmol) in tetrahydrofuran (10 ml) at −78° C., and the mixture was warmed up to 0° C., then stirred for 30 minutes. The mixture was again cooled down to −78° C. A solution of 3-fluoro-4-iodopyridine (500 mg, 2.24 mmol) synthesized by the method of P. Rocca et. al. (Tetrahedron 49,49-64(1993)) in tetrahydrofuran (4 ml) was added to said mixture, and the resulting mixture was stirred for 1.5 hours. The reaction mixture was dropwise added to a solution of diethyl oxalate (900 μl, 6.63 mmol) in tetrahydrofuran (10 ml) at −78° C. under stirring. The mixture was warmed up to room temperature and stirred for 20 minutes. Aqueous ammonium chloride was added to the reaction mixture, and the mixture was extracted with chloroform. The extract was dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography (hexane:ethyl acetate, 3:2) to give the title compound (659 mg).

reactant | n-Butyllithium | 2.78 mmol, 1.59M, 1.75 ml | C(CCC)[Li]
reactant | diisopropylamine | 2.78 mmol, 390 μl | C(C)(C)NC(C)C | C6H15N
reactant | 3-fluoro-4-iodopyridine | 2.24 mmol, 500 mg | FC=1C=NC=CC1I | C5H3FIN
reactant | diethyl oxalate | 6.63 mmol, 900 μl | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Ethyl (3-fluoro-2-iodopyridin-4-yl)oxoacetate | 659 mg | FC=1C(=NC=CC1C(C(=O)OCC)=O)I | C9H7FINO3
